US05455252
2-bromo-4-(methylthiomethyl)aniline and 3-chlorobenzene boronic acid can be combined to form 2-(3-chlorophenyl)-4-(methylthiomethyl)aniline,

reactant | 2-bromo-4-(methylthiomethyl)aniline | BrC1=C(N)C=CC(=C1)CSC | C8H10BrNS
reactant | 3-chlorobenzene boronic acid | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
product | 2-(3-chlorophenyl)-4-(methylthiomethyl)aniline | ClC=1C=C(C=CC1)C1=C(N)C=CC(=C1)CSC | C14H14ClNS
